US03957766
Preparation of 3-(5-Nitro-2-furyl)-6-(dimethylaminomethylene-hydrazino)-s-triazolo[4,3-b]pyridazine.
The preparation of 3-(5-nitro-2-furyl)-6-chloro-s-triazolo[4,3-b]pyridazine was carried out by the oxidative cyclization of 1-(5-nitro-furfurylidene)-2-(3-chloro-6-pyridazinyl) hydrazine (m.p. 250° - 254°C.) with lead tetraacetate. The yield was 79% and the product, after recrystallization from dimethyl formamide, melted at 222° - 226°C.

reactant | 3-(5-nitro-2-furyl)-6-chloro-s-triazolo[4,3-b]pyridazine | [N+](=O)([O-])C1=CC=C(O1)C1=NN=C2N1N=C(C=C2)Cl | C9H4ClN5O3
reactant | 1-(5-nitro-furfurylidene)-2-(3-chloro-6-pyridazinyl) hydrazine | [N+](=O)([O-])C1=CC=C(C=NNC2=CC=C(N=N2)Cl)O1 | C9H6ClN5O3
reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
product | 3-(5-Nitro-2-furyl)-6-(dimethylaminomethylene-hydrazino)-s-triazolo[4,3-b]pyridazine | [N+](=O)([O-])C1=CC=C(O1)C1=NN=C2N1N=C(C=C2)NN=CN(C)C | C12H12N8O3
